US04584300
[2-(4-Acetoxyphenyl)-3,4-dihydro-3-oxo-2H-1,4-benzothiazin-4-yl]acetic acid (compound No. 26)
To a solution of [3,4-dihydro-2-(4-hydroxyphenyl)-3-oxo-2H-1,4-benzothiazin-4-yl]acetic acid (compound No. 17, 49.2 g) in pyridine (150 ml), acetic anhydride (22 ml) is added and the mixture is standed overnight. The reaction mixture is poured into a mixture of 6N HCl and ice, and the separated oil is extracted with ethyl acetate. The organic layer is washed with N HCl, dried over anhydrous sodium sulfate and concentrated in vacuo. Benzene and ether are added to the residue and separated crystals are collected by filtration to give 34.9 g (63%) of the titled compound.

reactant | [3,4-dihydro-2-(4-hydroxyphenyl)-3-oxo-2H-1,4-benzothiazin-4-yl]acetic acid | OC1=CC=C(C=C1)C1SC2=C(N(C1=O)CC(=O)O)C=CC=C2 | C16H13NO4S
reactant | acetic anhydride | 22 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | HCl | 6N | Cl | ClH
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | [2-(4-Acetoxyphenyl)-3,4-dihydro-3-oxo-2H-1,4-benzothiazin-4-yl]acetic acid | 34.9 g, 63% | C(C)(=O)OC1=CC=C(C=C1)C1SC2=C(N(C1=O)CC(=O)O)C=CC=C2 | C18H15NO5S
